US07202364B2
2-Fluoro-6-chloroaniline (28.8 g, 0.2 mol) is suspended in a solution of sodium bicarbonate (17.2 g, 0.2 mol in 150 mL water) and warmed to 60° C. Elemental iodine (50.8 g, 0.2 mol) is added portionwise and the resulting mixture stirred at 60° C. for 3 days. After cooling to room temperature, the reaction mixture is partitioned between CH2Cl2 (350 mL) and saturated sodium bisulfite solution (500 mL). The aqueous layer is re-extracted with additional CH2Cl2 (250 mL) and the combined organic layers dried (MgSO4) and concentrated by rotary evaporator. The residual oil is purified by flash chromatography (9:1 hexanes/EtOAc) to give 2-fluoro-4-iodo-6-chloroaniline (m.p. 85–87° C.).

reactant | 2-Fluoro-6-chloroaniline | 0.2 mol, 28.8 g | FC1=C(N)C(=CC=C1)Cl | C6H5ClFN
reactant | sodium bicarbonate | 0.2 mol, 150 mL, 17.2 g | C([O-])(O)=O.[Na+]
reactant | iodine | 0.2 mol, 50.8 g | II | I2
product | 2-fluoro-4-iodo-6-chloroaniline | FC1=C(N)C(=CC(=C1)I)Cl | C6H4ClFIN
